data/mechanisms/records/IMS8-EQ8.63.json
{"mechanism_id": "IMS8-EQ8.63", "species": [{"species_id": "n_ethylcyclopentylamine_molecular_ion", "mapped_smiles": "[CH3:8][CH2:7][NH+:1][CH:2]1[CH:3]([1H:9])[CH2:4][CH2:5][CH2:6]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ring_opened_distonic_ion", "mapped_smiles": "[CH3:8][CH2:7][NH+:1]=[CH:2][CH:3]([1H:9])[CH2:4][CH2:5][CH2:6]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "h_shifted_distonic_ion", "mapped_smiles": "[CH3:8][CH2:7][NH+:1]=[CH:2][CH:3][CH2:4][CH2:5][CH2:6][1H:9]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "allylic_immonium_84", "mapped_smiles": "[CH3:8][CH2:7][NH+:1]=[CH:2][CH:3]=[CH2:4]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "ethyl_radical", "mapped_smiles": "[CH2:5][CH2:6][1H:9]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["n_ethylcyclopentylamine_molecular_ion"]}, {"state_id": "state_ring_opened", "species_ids": ["ring_opened_distonic_ion"]}, {"state_id": "state_h_shifted", "species_ids": ["h_shifted_distonic_ion"]}, {"state_id": "state_products", "species_ids": ["allylic_immonium_84", "ethyl_radical"]}], "steps": [{"step_id": "step_alpha_ring_opening", "from_state": "state_precursor", "to_state": "state_ring_opened", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 6]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 6]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_h_rearrangement", "from_state": "state_ring_opened", "to_state": "state_h_shifted", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [6, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 9]}, "target": {"type": "bond", "atom_maps": [6, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 9]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_alpha_ethyl_loss", "from_state": "state_h_shifted", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_ring_opening_8_63", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_ring_opening", "support_type": "textbook_proposed", "locator": {"page": 186, "equation": "8.63", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures (\"Three bonds cleaved\")"}, "confidence": 0.85, "curator_note": "Substrate is the N-ethylcyclopentylamine molecular ion (the page draws C2H5NH- on a five-membered ring with '+.' printed on the nitrogen), so the precursor mapped_smiles localizes charge and odd electron on N(1). Book draws 2 arc(s); moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). Drawn arc 1 = a fishhook from the odd electron on N(1) into the N(1)-C(2) bond; drawn arc 2 = a fishhook from the ring C(2)-C(6) sigma bond into that same N(1)-C(2) bond, which rises to the immonium double bond. The undrawn move 3 carries the second electron of the cleaved ring bond onto C(6); the book simply prints the radical dot on that carbon in the next structure. Because the cleaved bond is IN the ring, this alpha step only OPENS the ring - no mass is lost yet - giving the distonic ion C2H5-N+H=CH-CH2CH2CH2-CH2. (the text calls this 'radical-site-initiated ring-opening [that] separates the radical and charge sites'). Map numbers: 1 = N, 2 = ring carbon bonded to N, 3 = its retained ring neighbour (the later H donor), 4 and 5 = the two intervening CH2 groups, 6 = the ring carbon cleaved off C(2), 7/8 = the N-ethyl CH2/CH3, 9 = the migrating hydrogen (written as the isotope-tagged explicit atom [1H:9] so that the H can carry an atom map at all - RDKit folds an untagged mapped H into implicit valence)."}, {"evidence_id": "evidence_step_rH_8_63", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_h_rearrangement", "support_type": "textbook_proposed", "locator": {"page": 186, "equation": "8.63", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures (\"Three bonds cleaved\")"}, "confidence": 0.85, "curator_note": "The arrow is labelled 'rH' on the page. Book draws 2 arc(s); moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). Drawn arc 1 = a fishhook from the radical dot on the terminal carbon C(6) reaching down-left to the hydrogen, which the book writes out explicitly as 'H' on C(3); drawn arc 2 = a fishhook from that C(3)-H bond back up to C(6), i.e. into the C(6)-H bond being formed. The undrawn move 3 leaves the second electron of the old C(3)-H bond on C(3), which is why the next structure simply carries the dot there. Net: a 1,4-hydrogen shift (five-membered transition state counting C6-C5-C4-C3 plus the H) that relocates the radical site next to the immonium carbon while the terminal CH2. becomes CH3. Both C-H bonds are visible to the arrow bookkeeping here because the migrating hydrogen is mapped as [1H:9]."}, {"evidence_id": "evidence_step_alpha_loss_8_63", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_ethyl_loss", "support_type": "textbook_proposed", "locator": {"page": 186, "equation": "8.63", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures (\"Three bonds cleaved\")"}, "confidence": 0.85, "curator_note": "Book draws 2 arc(s); moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). Drawn arc 1 = a fishhook from the radical on C(3) into the forming C(3)=C(4) pi bond; drawn arc 2 = a fishhook from the C(4)-C(5) sigma bond into that same pi bond. The undrawn move 3 puts the second electron of the cleaved C(4)-C(5) bond on C(5) - the book prints the expelled fragment as 'CH3 / .CH2', i.e. the ethyl radical, without drawing that hook. Products: the conjugated immonium ion C2H5-N+H=CH-CH=CH2 at m/z 84 (100%, the ion labelled on the page) plus C2H5.. Three bonds have now been cleaved in total (the ring C-C, the C-H, and this C-C), which is exactly the 'Three bonds cleaved' heading under which the page places this equation. The migrating hydrogen [1H:9] leaves with the ethyl radical, so relative to a hypothetical H-free two-bond ring cleavage the ion is one hydrogen lighter; that is recorded as hydrogen_shift = -1 on the peak."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 113.1199, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_84", "species_id": "allylic_immonium_84", "step_id": "step_alpha_ethyl_loss", "observed_mz": 84.0808, "relative_intensity": 1.0, "hydrogen_shift": -1, "isotope_offset": 0, "status": "proposed", "confidence": 0.9}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
